US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (596 mg, 2.57 mmol), PyAOP (2.63 mmol), and DIPEA (830 μL, 4.75 mmol) in DCM (20 mL) is stirred at rt under N2 for 10 min. 5-Bromoindol-1-ylamine (500 mg, 2.37 mmol) is added. The resulting mixture is stirred at rt overnight. The mixture is portioned between EtOAc and water. The organic phase is separated, washed with saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 2% MeOH in DCM to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-bromo-indol-1-yl)-amide (246 mg, 24%) as a solid. MS: 425 (M) & 427 (M+2). 1H NMR (300 MHz, DMSO-d6): δ 12.02 (s, 1H), 9.24 (s, 1H), 8.34 (d, 1H), 8.20-8.15 (m, 1H), 7.84 (d, 1H), 7.68-7.61 (m, 1H), 7.59 (d, 1H), 7.50-7.43 (m, 2H), 7.35 (dd, 1H), 6.57 (dd, 1H), 2.78 (s, 3H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 2.57 mmol, 596 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | PyAOP | 2.63 mmol | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=N5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.75 mmol, 830 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-Bromoindol-1-ylamine | 2.37 mmol, 500 mg | BrC=1C=C2C=CN(C2=CC1)N | C8H7BrN2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-bromo-indol-1-yl)-amide | 246 mg, 24% | BrC=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C20H14BrFN4O
